US07666864B2
(S,S)-5-{4-[5-(Acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenyl}-2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yloxy)-nicotinic acid methyl ester
(S,S)—N-(3-{3-Fluoro-4-[4-methoxy-2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yloxy)-pyrimidin-5-yl]-phenyl}-2-oxo-oxazolidin-5-ylmethyl)-acetamide. The title compound was prepared by following the same procedure as described in the preparation of Example 7, except 5-bromo-2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6(S)-yloxy)-nicotinic acid methyl ester was used in place of 6(S)-(5-bromo-pyridin-2-yloxy)-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazine. ESI MS m/z 571.5 (M+H+).

reactant | (S,S)—N-(3-{3-Fluoro-4-[4-methoxy-2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yloxy)-pyrimidin-5-yl]-phenyl}-2-oxo-oxazolidin-5-ylmethyl)-acetamide | FC=1C=C(C=CC1C=1C(=NC(=NC1)O[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-])OC)N2C(O[C@H](C2)CNC(C)=O)=O | C23H22FN7O8
reactant | 5-bromo-2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6(S)-yloxy)-nicotinic acid methyl ester | COC(C1=C(N=CC(=C1)Br)O[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-])=O | C13H11BrN4O6
product | (S,S)-5-{4-[5-(Acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenyl}-2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yloxy)-nicotinic acid methyl ester | COC(C1=C(N=CC(=C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)O[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-])=O | C25H23FN6O9
